US04013769
Reaction of 2-[(2-aminoethyl)thiomethyl]-3-chloropyridine with 1,1-dicyano-2,2-bis-methylthioethylene by the procedure of Example 1(b)(i) yields 1,1-dicyano-2-methylthio-2-[ 2-((3-chloro-2-pyridyl)methylthio)ethylamino]-ethylene.

reactant | 2-[(2-aminoethyl)thiomethyl]-3-chloropyridine | NCCSCC1=NC=CC=C1Cl | C8H11ClN2S
reactant | 1,1-dicyano-2,2-bis-methylthioethylene | C(#N)C(=C(SC)SC)C#N | C6H6N2S2
product | 1,1-dicyano-2-methylthio-2-[ 2-((3-chloro-2-pyridyl)methylthio)ethylamino]-ethylene | C(#N)C(=C(NCCSCC1=NC=CC=C1Cl)SC)C#N | C13H13ClN4S2
